US07713979B2
3-(2-Chloro-4-pyridin-3-yl-benzyl)-1-cyclohexyl-3-methyl-pyrrolidin-2-one ammonium chloride salt
Free the bases in the mixture of 3-(2-chloro-4-pyridin-3-yl-benzyl)-1-cyclohexyl-3-methyl-pyrrolidin-2-one and 3-[1-(2-chloro-4-pyridin-3-yl-phenyl)-ethyl]-1-cyclohexyl-pyrrolidin-2-one, isomer 1 trifluoroacetic acid salts by passage through an SCX column eluting with methanol followed by 1N ammonia in methanol and evaporate. Further purify the residue by chromatography on silica gel (eluting with 15% acetonitrile in dichloromethane) to give first 3-[1-(2-chloro-4-pyridin-3-yl-phenyl)-ethyl]-1-cyclohexyl-pyrrolidin-2-one, isomer 1 (40 mg, 13%), and second 3-(2-chloro-4-pyridin-3-yl-benzyl)-1-cyclohexyl-3-methyl-pyrrolidin-2-one. To a solution of 3-(2-chloro-4-pyridin-3-yl-benzyl)-1-cyclohexyl-3-methyl-pyrrolidin-2-one in methanol, add ammonium chloride (11.7 mg, 0.22 mmol) and evaporate methanol out of the mixture three times to give the desired title compound (94 mg, 27%). MS (ES+) m/z=383.

reactant | 3-(2-chloro-4-pyridin-3-yl-benzyl)-1-cyclohexyl-3-methyl-pyrrolidin-2-one | ClC1=C(CC2(C(N(CC2)C2CCCCC2)=O)C)C=CC(=C1)C=1C=NC=CC1 | C23H27ClN2O
reactant | ammonium chloride | 0.22 mmol, 11.7 mg | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 3-(2-Chloro-4-pyridin-3-yl-benzyl)-1-cyclohexyl-3-methyl-pyrrolidin-2-one ammonium chloride salt | 94 mg, 27% | [Cl-].[NH4+].ClC1=C(CC2(C(N(CC2)C2CCCCC2)=O)C)C=CC(=C1)C=1C=NC=CC1 | InChI=1S/C23H27ClN2O.ClH.H3N/c1-23(11-13-26(22(23)27)20-7-3-2-4-8-20)15-18-10-9-17(14-21(18)24)19-6-5-12-25-16-19;;/h5-6,9-10,12,14,16,20H,2-4,7-8,11,13,15H2,1H3;1H;1H3
